US08012976B2
A mixture of 3-(4-isobutyrylpiperazine-1-carbonyl)benzaldehyde (288 mg, 1 mmol) and (E)-4-(pyridin-4-ylmethyleneamino)-isobenzofuran-1(3H)-one (238 mg, 1 mmol) in ethyl propionate (7.5 mL) was cooled to 0° C. Then a solution of sodium methoxide in methanol [sodium (92 mg, 4 mmol) in methanol (7.5 mL)] was added drop-wise. After the addition, the mixture was stirred at 25° C. for 18 hr. The mixture was quenched with water (10 mL) and solvent was removed in vacuum. The residue was dissolved in water, and then extracted with ethyl acetate (50 mL×3). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give crude product. The crude product was purified by chromatography (silica gel, petroleum ether/ethyl acetate=10:1 to 1:10) to give methyl 3-(3-(4-isobutyryl piperazine-1-carbonyl)phenyl)-4-oxo-2-(pyridin-4-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate (140 mg, yield 26%). LC-MS (ESI) m/z: 541 (M+1)+.

reactant | 3-(4-isobutyrylpiperazine-1-carbonyl)benzaldehyde | 1 mmol, 288 mg | C(C(C)C)(=O)N1CCN(CC1)C(=O)C=1C=C(C=O)C=CC1 | C16H20N2O3
reactant | (E)-4-(pyridin-4-ylmethyleneamino)-isobenzofuran-1(3H)-one | 1 mmol, 238 mg | N1=CC=C(C=C1)\C=N\C1=C2COC(C2=CC=C1)=O | C14H10N2O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 4 mmol, 7.5 mL, 92 mg | CO | CH4O
reactant | ethyl propionate | 7.5 mL | C(CC)(=O)OCC | C5H10O2
product | methyl 3-(3-(4-isobutyryl piperazine-1-carbonyl)phenyl)-4-oxo-2-(pyridin-4-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate | 140 mg, yield 26% | C(C(C)C)(=O)N1CCN(CC1)C(=O)C=1C=C(C=CC1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OC)C1=CC=NC=C1 | C31H32N4O5
